US08685969B2
10. 7-Amino-4-(3-(6-chloro-1-oxoisoindolin-2-yl)-2-methylphenyl)-9H-pyrido[3,4-b]indole-1-carboxamide
To a burgundy, homogeneous solution of 2-(trimethylsilyl)ethyl 1-carbamoyl-4-(3-(6-chloro-1-oxoisoindolin-2-yl)-2-methylphenyl)-9H-pyrido[3,4-b]indol-7-ylcarbamate (0.126 g, 0.201 mmol) in tetrahydrofuran (0.2 mL) was added 1M TBAF/THF (0.402 mL, 0.402 mmol). After 4 hr, EtOAc (80 mL) was added, and the layer was washed with water (20 mL) and brine (20 mL), successively. The organic solution was dried over MgSO4 and concentrated in vacuo to give a crude product as a light brown solid, which was used in the subsequent step.

reactant | 2-(trimethylsilyl)ethyl 1-carbamoyl-4-(3-(6-chloro-1-oxoisoindolin-2-yl)-2-methylphenyl)-9H-pyrido[3,4-b]indol-7-ylcarbamate | 0.201 mmol, 0.126 g | C(N)(=O)C1=NC=C(C2=C1NC1=CC(=CC=C21)NC(OCC[Si](C)(C)C)=O)C2=C(C(=CC=C2)N2C(C1=CC(=CC=C1C2)Cl)=O)C | C33H32ClN5O4Si
reactant | TBAF THF | 0.402 mmol, 1M, 0.402 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-].C1CCOC1
reactant | EtOAc | 80 mL | CCOC(=O)C | C4H8O2
solvent | tetrahydrofuran | 0.2 mL | O1CCCC1 | C4H8O
product | 7-Amino-4-(3-(6-chloro-1-oxoisoindolin-2-yl)-2-methylphenyl)-9H-pyrido[3,4-b]indole-1-carboxamide | NC1=CC=C2C3=C(NC2=C1)C(=NC=C3C3=C(C(=CC=C3)N3C(C1=CC(=CC=C1C3)Cl)=O)C)C(=O)N | C27H20ClN5O2
